US06852749B1
Preparation of 4-Allyl-1,2-diphenyl-3,5-pyrazolidinedione
Prepared from 1,2-diphenylhydrazine (5.2 g; 28.0 mmol), diethyl allylmalonate (5.0 g; 25.0 mmol), and sodium (0.58 g; 25.0 mmol) using the procedure of Example 3. The crude product was recrystallized from absolute ethanol to give 2.21 g (30%) tan crystals, mp 135-137° C.

reactant | 1,2-diphenylhydrazine | 28.0 mmol, 5.2 g | C1(=CC=CC=C1)NNC1=CC=CC=C1 | C12H12N2
reactant | diethyl allylmalonate | 25.0 mmol, 5.0 g | C(C=C)C(C(=O)OCC)C(=O)OCC | C10H16O4
reactant | sodium | 25.0 mmol, 0.58 g | [Na] | Na
product | 4-Allyl-1,2-diphenyl-3,5-pyrazolidinedione | 2.21 g, 30% | C(C=C)C1C(N(N(C1=O)C1=CC=CC=C1)C1=CC=CC=C1)=O | C18H16N2O2
